US06022894
EXAMPLE 79: Preparation of N-(2-hydroxy-3-phenoxypropyl)-1,1-dimethyl-2-(3-fluoro-4-methoxyphenyl) ethylamine.
Using the method of Example 6, supra, phenyl glycidyl ether (150 mg, 1.1 mmol) and 1,1-dimethyl-2-(3-fluoro-4-methoxyphenyl)ethylamine (197 mg, 1 mmol) were used to prepare the title compound. The title compound crystallized on standing to yield 169 mg of small crystals: GC/EI-MS, m/z (rel. int.) 332 (M+ -15,0.1), 209 (16), 208 (100), 139 (13), 133 (5), 114 (7), 107 (6), 77 (11), 71 (12), 70 (20), 58 (9).

reactant | phenyl glycidyl ether | 1.1 mmol, 150 mg | C(C1CO1)OC1=CC=CC=C1 | C9H10O2
reactant | 1,1-dimethyl-2-(3-fluoro-4-methoxyphenyl)ethylamine | 1 mmol, 197 mg | CC(CC1=CC(=C(C=C1)OC)F)(C)N | C11H16FNO
product | N-(2-hydroxy-3-phenoxypropyl)-1,1-dimethyl-2-(3-fluoro-4-methoxyphenyl) ethylamine | OC(CNC(CC1=CC(=C(C=C1)OC)F)(C)C)COC1=CC=CC=C1 | C20H26FNO3
